US09062070B2
Step E: 7-tert-butyl 7-ethyl 3-nitro-5,6-dihydro-7H-cyclopenta[b]pyridine-7,7-dicarboxylate
A solution of tert-butyl ethyl but-3-yn-1-yl(5-nitropyrimidin-2-yl)propanedioate (10.2 g, 28.1 mmol) in 100 mL of nitrobenzene was heated to 150° C. for 4 hours. Nitrobenzene was removed by vacuum and the residue was purified by column chromatography (Petroleum ether:EtOAc=10:1) to afford the title compound; MS m/z 337 (M+1)+.

reactant | tert-butyl ethyl but-3-yn-1-yl(5-nitropyrimidin-2-yl)propanedioate | 28.1 mmol, 10.2 g | C(CC#C)C(C(=O)OC(C)(C)C)(C(=O)OCC)C1=NC=C(C=N1)[N+](=O)[O-] | C17H21N3O6
solvent | nitrobenzene | 100 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 7-tert-butyl 7-ethyl 3-nitro-5,6-dihydro-7H-cyclopenta[b]pyridine-7,7-dicarboxylate | [N+](=O)([O-])C=1C=C2C(=NC1)C(CC2)(C(=O)OC(C)(C)C)C(=O)OCC | C16H20N2O6
